US07943622B2
Step 1. Synthesis of 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylic acid
Lithium hydroxide (15.5 mg, 0.649 mmol) was added to a solution of methyl 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylate (0.282 g, 0.649 mmol) in THF (2 mL), MeOH (2 mL), and H2O (1 mL). After 5 h, 4M HCl in 1,4-dioxane (0.200 mL) was added, and the reaction mixture was concentrated under reduced pressure. The material was used without further purification. LC-MS: RT=6.35 min, [M+H]+=421.7.

reactant | Lithium hydroxide | 0.649 mmol, 15.5 mg | [OH-].[Li+]
reactant | methyl 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylate | 0.649 mmol, 0.282 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1SC=C(N1)C(=O)OC)COC=1C=NC=CC1 | C20H26N4O5S
reactant | H2O | 1 mL | O | H2O
reactant | HCl | 4M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 0.200 mL | O1CCOCC1 | C4H8O2
product | 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1SC=C(N1)C(=O)O)COC=1C=NC=CC1 | C19H24N4O5S
